US07462639B2
5,6-Diamino-1-ethyl-3,3-dimethyl-1,3-dihydro-indol-2-one (5.00 g, 22.80 mmol), and 4-nitro-pyrazole carboxylic acid (3.58 g, 22.80 mmol) were mixed with polyphosphoric acid (22.34 g, 228.0 mmol) and phosphorus pentoxide (1.63 g, 11.4 mmol) and stirred under nitrogen at 150° C. for 6 h. It was quenched with ice water (250 ml) and the resulting suspension was adjusted to pH 5 by adding aqueous ammonia. The crude microcrystalline solid was dissolved in ethyl acetate (400 mL). The organic layer was separated and the aqueous layer was further extracted with ethyl acetate (4×400 mL). After evaporation of the solvent, the crude product was purified by HPLC (High Performance Liquid Chromatography). 5-Ethyl-7,7-dimethyl-2-(4-nitro-1H-pyrazol-3-yl)-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one was obtained as an orange solid (2.47 g, 32%).

reactant | 5,6-Diamino-1-ethyl-3,3-dimethyl-1,3-dihydro-indol-2-one | 22.80 mmol, 5.00 g | NC=1C=C2C(C(N(C2=CC1N)CC)=O)(C)C | C12H17N3O
reactant | 4-nitro-pyrazole carboxylic acid | 22.80 mmol, 3.58 g | [N+](=O)([O-])C=1C(=NNC1)C(=O)O | C4H3N3O4
reactant | phosphorus pentoxide | 11.4 mmol, 1.63 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | 5-Ethyl-7,7-dimethyl-2-(4-nitro-1H-pyrazol-3-yl)-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | C(C)N1C(C(C=2C=C3C(=CC12)N=C(N3)C3=NNC=C3[N+](=O)[O-])(C)C)=O | C16H16N6O3
